US08017607B2
A mixture of rac-4-{2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-benzoic acid (0.33 g, 0.55 mmol), a solution of ammonia (0.5 M in dioxane, Aldrich, 2 mL, 1 mmol), HATU (0.3 g, 0.79 mmol) and iPr2NEt (0.3 g, 2.33 mmol) in CH2Cl2 (20 mL) was stirred at room temperature for 20 h. The mixture was then diluted with CH2Cl2 and washed with water, brine. The organic phase was separated, filtered and dried over Na2SO4. The mixture was then concentrated and purified by chromatography (EtOAc) to give rac-4-{2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-benzamide as a white solid (0.33 g, 100%).

reactant | rac-4-{2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-benzoic acid | 0.55 mmol, 0.33 g | ClC=1C(=C(C=CC1)[C@@H]1[C@@]([C@@H](N(C1)CC(=O)NC1=CC=C(C(=O)O)C=C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C31H29Cl2F2N3O3
reactant | ammonia | 1 mmol, 0.5 M, 2 mL | N | H3N
reactant | HATU | 0.79 mmol, 0.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 2.33 mmol, 0.3 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | rac-4-{2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-benzamide | 0.33 g, 100% | ClC=1C(=C(C=CC1)[C@@H]1[C@@]([C@@H](N(C1)CC(=O)NC1=CC=C(C(=O)N)C=C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C31H30Cl2F2N4O2
